US04127592
In a 1 L three-necked flask fitted with a mechanical stirrer and a gas inlet tube is placed a suspension of 34 g of sodium ethoxide in a mixture of 100 ml of dimethylformamide and 300 ml of toluene. To the stirred suspension is added at room temperature, under nitrogen, 93 g of 2-carbethoxy-5-methyl-3,4-dihydroxy-furan. Gaseous methyl bromide is bubbled through the stirred reaction mixture at 30°-40° C. till the pH of the reaction mixture reaches 6.5-7.0. The solvents are removed under vacuum and the residue is dissolved in a solution of 80 g of sodium hydroxide in 350 ml of water. The reaction mixture is kept at room temperature under nitrogen for 20 hours, acidified with hydrochloric acid and continuously extracted with ether. The ether extract is dried and the solvent removed under vacuum, the residue is recrystallized from ether, yielding 41.5 g (65%) of 4-hydroxy-2,5-dimethyl-3-oxo-2H-furan, m.p. 81.5°-83.1° C.

reactant | sodium ethoxide | 34 g | [O-]CC.[Na+]
reactant | 2-carbethoxy-5-methyl-3,4-dihydroxy-furan | 93 g | C(=O)(OCC)C=1OC(=C(C1O)O)C | C8H10O5
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-2,5-dimethyl-3-oxo-2H-furan | 41.5 g, 65% | OC=1C(C(OC1C)C)=O | C6H8O3
